US08293768B2
Following the procedure as described in step A of Preparation 14, making variations as required to replace 4-(chloromethyl)pyrimidine with 3-(chloromethyl)pyridazine (prepared according to R. W. Carling, et al., J. Med. Chem., (2004), Vol. 47, pp. 1807-1822) to react with potassium phthalimide, 2-(pyridazin-3-ylmethyl)isoindoline-1,3-dione was obtained as a colorless solid in 17% yield: 1H NMR (300 MHz, CDCl3) δ 9.12 (d, J=3.0 Hz, 1H), 7.90-7.85 (m, 2H), 7.78-7.72 (m, 2H), 7.51-7.43 (m, 2H), 5.21 (s, 2H); MS (ES+) m/z 240.1 (M+1).

reactant | 4-(chloromethyl)pyrimidine | ClCC1=NC=NC=C1 | C5H5ClN2
reactant | 3-(chloromethyl)pyridazine | ClCC=1N=NC=CC1 | C5H5ClN2
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | 2-(pyridazin-3-ylmethyl)isoindoline-1,3-dione | 17% yield | N1=NC(=CC=C1)CN1C(C2=CC=CC=C2C1=O)=O | C13H9N3O2
